US09284271B2
A mixture of N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide (0.080 g; 0.188 mmol), 1H-pyrazole (0.065 g; 0.942 mmol), copper (I) iodide (0.0036 g; 0.002 mmol), and potassium carbonate (0.032 g; 0.226 mmol) in 2-propanol (3 ml) was irradiated in a microwave oven microwave for 20 minutes at 150° C. The volatiles were removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The aqueous layer was then extracted several times with ethyl acetate. The combined organic layers were evaporated to dryness and the residue was purified by flash chromatography on silica gel (eluent 1 to 10% methanol in dichloromethane) to afford 0.028 g (41%) of N-(2-(5-Chloro-1H-indol-3-yl)ethyl)-2-(1H-pyrazol-1-yl)benzamide as a white solid.

reactant | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide | 0.188 mmol, 0.080 g | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=C(C=CC=C1)I)=O | C17H14ClIN2O
reactant | 1H-pyrazole | 0.942 mmol, 0.065 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 0.226 mmol, 0.032 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
catalyst | copper (I) iodide | 0.002 mmol, 0.0036 g | [Cu]I
product | N-(2-(5-Chloro-1H-indol-3-yl)ethyl)-2-(1H-pyrazol-1-yl)benzamide | 0.028 g, 41% | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=C(C=CC=C1)N1N=CC=C1)=O | C20H17ClN4O
